US05051442
3-[(Carbethoxymethyl)thio]-2-carbethoxyindole is treated with m-chloroperbenzoic acid (1 eq.) in methylene chloride at 0° C. The reaction is followed by TLC. After starting material is consumed the reaction mixture is washed with sat. NaHCO3 and sat. NaCl. The organic layer is dried. 3-[(Carbethoxymethyl)sulfinyl]-2-carbethoxyindole may be isolated by flash column chromatography followed by recrystallization.

reactant | 3-[(Carbethoxymethyl)thio]-2-carbethoxyindole | C(=O)(OCC)CSC1=C(NC2=CC=CC=C12)C(=O)OCC | C15H17NO4S
reactant | m-chloroperbenzoic acid | 1 eq. | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[(Carbethoxymethyl)sulfinyl]-2-carbethoxyindole | C(=O)(OCC)CS(=O)C1=C(NC2=CC=CC=C12)C(=O)OCC | C15H17NO5S
